US08114886B2
5-[(2,5-Difluorophenyl)[(3,5-difluorophenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide
To a solution of 5-[(2,5-difluorophenyl)[(3,5-difluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid (105 mg, 0.24 mmol) in methylene chloride (5 ml), 2-aminoethanol (0.016 ml, 0.26 mmol), 1-hydroxybenzotriazole (36 mg, 0.26 mmol), 4-methylmorpholine (0.029 ml, 0.26 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (51 mg, 0.26 mmol) were added at room temperature. After stirring for 4 hours at room temperature, the reaction mixture was washed with 1 N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the obtained residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=2:3 was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of ethanol and diethyl ether, and was collected by filtration, to obtain the title compound (36 mg, 0.07 mmol, 31%) as a white solid.

reactant | 5-[(2,5-difluorophenyl)[(3,5-difluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid | 0.24 mmol, 105 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=CC(=CC(=C1)F)F | C20H13F4NO4S
reactant | 2-aminoethanol | 0.26 mmol, 0.016 ml | NCCO | C2H7NO
reactant | 1-hydroxybenzotriazole | 0.26 mmol, 36 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.26 mmol, 0.029 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.26 mmol, 51 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-[(2,5-Difluorophenyl)[(3,5-difluorophenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide | 0.07 mmol, 36 mg, 31% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCCO)C)S(=O)(=O)C1=CC(=CC(=C1)F)F | C22H18F4N2O4S
